US05849945
Preparation process of (4-(2 -acetylamino-4-fluoro-5-methylphenyl)butanoic acid
To 1.0 g of 3,4-dihydro-8-fluoro-7-methyl-2-oxo-1- benzazepine, 15 ml of methanol and 0.7 ml of concentrated hydrochloric acid were added and they were heated under reflux for 3 hours. After the completion of the reaction, the reaction mixture was allowed to cool and the solvent was removed under reduced pressure. To the white residue so obtained, 20 ml of methylene chloride were added, followed by the addition of 1.8 ml of triethylamine and then 0.5 ml of acetic anhydride under ice cooling. They were stirred at room temperature for 2.5 hours. After the completion of the reaction, water and a 5% aqueous hydrochloric acid solution were added to the reaction mixture, followed by extraction with chloroform. The chloroform layer was washed with a saturated aqueous solution of sodium bicarbonate and then dried over anhydrous magnesium sulfate. The solvent was then evaporated. To the residue so obtained, 8 ml of methanol and 5 ml of a 5% aqueous solution of sodium hydroxide were added and the mixture was stirred at room temperature for 30 minutes. The solvent was then distilled off under reduced pressure. To the residue so obtained, a 5% aqueous hydrochloric acid solution was added, followed by extraction with ethyl acetate. The ethyl acetate layer was washed with saturated saline and then dried over anhydrous magnesium sulfate. The solvent was then evaporated. The residue so obtained was recrystallized from ethyl acetate-chloroform, whereby 0.8 g of the title compound was obtained.

reactant | 3,4-dihydro-8-fluoro-7-methyl-2-oxo-1- benzazepine | 1.0 g | FC1=CC=2C(=CCCC(N2)=O)C=C1C | C11H10FNO
reactant | hydrochloric acid | 0.7 ml | Cl | ClH
reactant | acetic anhydride | 0.5 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 8 ml | CO | CH4O
solvent | water | O | H2O
solvent | triethylamine | 1.8 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 15 ml | CO | CH4O
product | 4-(2 -acetylamino-4-fluoro-5-methylphenyl)butanoic acid | 0.8 g | C(C)(=O)NC1=C(C=C(C(=C1)F)C)CCCC(=O)O | C13H16FNO3
